US07687495B2
a) 3-[(2S,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2,N-trimethyl-propionamide
According to general procedure D, 150 mg of 3-[(2S,4R,5R)-4-(4-methoxy-phenyl)-5-[(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2-dimethyl-propionic acid from (from example 65b) and methylamine are used to afford the title compound as a brown oil. Rf=0.18 (EtOAc-heptane 5:1); Rt=4.97.

reactant | 3-[(2S,4R,5R)-4-(4-methoxy-phenyl)-5-[(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2-dimethyl-propionic acid | 150 mg | COC1=CC=C(C=C1)[C@H]1C[C@H](N(C[C@@H]1OC(C=1C=CC2=C(NCCO2)C1)CCCOC)S(=O)(=O)C1=CC=C(C=C1)C)CC(C(=O)O)(C)C | C37H48N2O8S
reactant | methylamine | CN | CH5N
product | 3-[(2S,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2,N-trimethyl-propionamide | COC1=CC=C(C=C1)[C@H]1C[C@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CC(C(=O)NC)(C)C | C38H51N3O7S
